US04837350
4,4'-Dichlorobenzoin toluenesulfonate
In accordance with Example 2, p-toluenesulfonyl chloride is reacted with 4,4'-dichlorobenzoin in 200 ml of methyl ethyl ketone. The resultant sulfone melts at 129°-130° C.

reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4,4'-dichlorobenzoin | ClC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Cl | C14H10Cl2O2
reactant | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
product | 4,4'-Dichlorobenzoin toluenesulfonate | C=1(C(=CC=CC1)S(=O)(=O)O)C.ClC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Cl | InChI=1S/C14H10Cl2O2.C7H8O3S/c15-11-5-1-9(2-6-11)13(17)14(18)10-3-7-12(16)8-4-10;1-6-4-2-3-5-7(6)11(8,9)10/h1-8,13,17H;2-5H,1H3,(H,8,9,10)
